US04772600
3-[(3-Nitro-2-pyridinyl)amino]propanoic acid ethyl ester
A mixture of 2-chloro-3-nitropyridine (68.6 g, 0.434 mole), β-alanine ethyl ester hydrochloride (100 g, 0.651 mole), triethylamine (103.7 g, 1.03 mole) and 95% ethanol (675 ml) was refluxed for 5 hr and then stirred at room temperature overnight. The solvent was evaporated at reduced pressure and the residue was triturated in ethyl acetate (700 ml). The solid was filtered and washed with ethyl acetate. The filtrate was washed three times with water, dried over anhydrous sodium sulfate, filtered and evaporated at reduced pressure to give 113.4 g of an oil. The oil was eluted through a silica gel column (400 g) with ethyl acetate. The eluent was evaporated at reduced pressure to give 106.2 g of an oil (100% yield). A small portion of the oil was crystallized from petroleum ether to give 0.7 g of yellow solid of the title compound, mp. 32.5°-33.5° C.

reactant | 2-chloro-3-nitropyridine | 0.434 mole, 68.6 g | ClC1=NC=CC=C1[N+](=O)[O-] | C5H3ClN2O2
reactant | β-alanine ethyl ester hydrochloride | 0.651 mole, 100 g | Cl.C(C)OC(CCN)=O
reactant | triethylamine | 1.03 mole, 103.7 g | C(C)N(CC)CC | C6H15N
solvent | ethanol | 675 ml | C(C)O | C2H6O
product | 3-[(3-Nitro-2-pyridinyl)amino]propanoic acid ethyl ester | 113.4 g | C(C)OC(CCNC1=NC=CC=C1[N+](=O)[O-])=O | C10H13N3O4
